US07538112B2
Step 1: 2-(4-Fluorobenzyl)-8-methyl-10-methoxy-1,9-dioxo-1,2,6,7,8,9-hexahydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-4-carboxaldehyde
To a cold (−78° C.) solution of oxalyl chloride (0.25 mL, 2.8 mmol) in anhydrous dichloromethane (15 mL) under an atmosphere of nitrogen, a solution of anhydrous DMSO (0.21 mL, 2.93 mmol) in anhydrous dichloromethane (5 mL) was added. The resultant mixture was stirred at the same temperature for 10 minutes. A solution of 2-(4-fluorobenzyl)-4-(hydroxymethyl)-10-methoxy-8-methyl-7,8-dihydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione (0.47 g, 1.22 mmol) in a mixture of anhydrous dichloromethane (3 mL) and DMSO (5 mL) was added. After stirring at the same temperature for 2 hours, the reaction mixture was allowed to warm to −35° C., and treated with triethylamine (8 mL). The reaction mixture was allowed to warm to room temperature and pour into water (40 mL). The product mixture was diluted with dichloromethane. The organic extract was dried over anhydrous magnesium sulfate, filtered, and concentrated under vacuum. The residual oil was treated with hexane and cooled to 0° C. The solid precipitated was filtered and vacuum dried to provide the title compound.

reactant | oxalyl chloride | 2.8 mmol, 0.25 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 2.93 mmol, 0.21 mL | CS(=O)C | C2H6OS
reactant | 2-(4-fluorobenzyl)-4-(hydroxymethyl)-10-methoxy-8-methyl-7,8-dihydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione | 1.22 mmol, 0.47 g | FC1=CC=C(CN2N=C(C3=C(C2=O)C(=C2N3CCN(C2=O)C)OC)CO)C=C1 | C19H19FN4O4
reactant | DMSO | 5 mL | CS(=O)C | C2H6OS
reactant | triethylamine | 8 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | water | 40 mL | O | H2O
product | 2-(4-Fluorobenzyl)-8-methyl-10-methoxy-1,9-dioxo-1,2,6,7,8,9-hexahydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-4-carboxaldehyde | FC1=CC=C(CN2N=C(C3=C(C2=O)C(=C2N3CCN(C2=O)C)OC)C=O)C=C1 | C19H17FN4O4
